data/mechanisms/records/IMS4-EQ4.8.json
{"mechanism_id": "IMS4-EQ4.8", "species": [{"species_id": "dimethylbutane_molecular_ion", "mapped_smiles": "[CH3:2][C:1]([CH3:6])([CH3:10])[CH2:14][CH3:20]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "tert_butyl_cation", "mapped_smiles": "[CH3:2][C+:1]([CH3:6])[CH3:10]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:14][CH3:20]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethylbutane_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["tert_butyl_cation", "ethyl_radical"]}], "steps": [{"step_id": "step_sigma_dissociation", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 14]}, "target": {"type": "atom", "atom_maps": [14]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 14]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_dissociation", "support_type": "textbook_proposed", "locator": {"page": 56, "equation": "4.8", "section": "4.5 Sigma-bond dissociation"}, "confidence": 0.9, "curator_note": "Concrete example: 2,2-dimethylbutane (CH3)3C-CH2CH3 is ionized (-e-) to its molecular ion and then dissociates its central sigma C-C bond, retaining the charge on the more-substituted (tertiary) carbon to give the tert-butyl cation (CH3)3C(+) (m/z 57, printed '100%', the base peak) and losing an ethyl radical .CH2CH3. REPRESENTATION CAVEAT (honest): the saturated-alkane molecular ion is a sigma radical cation whose odd electron occupies the one-electron C-C bond and cannot be localized on any single atom (C6H14 radical cation has no connected integer-bond structure: 37 valence electrons -> 18 two-electron bonds + 1 unpaired e-, one fewer than the 19 needed to connect the 20 atoms). The precursor mapped_smiles therefore shows the NEUTRAL 2,2-dimethylbutane skeleton (the real origin of the arrows) while the species charge=1/radical_electrons=1 fields record that it is the M+.. Book draws 0 curved arrows/fishhooks; it labels two reaction arrows, '-e-' (ionization) and 'sigma' (dissociation). The two encoded electron moves map 1:1 onto those two labels: move <1> routes one electron of the C1-C14 sigma bond to the leaving carbon (C14 -> ethyl radical), move <2> routes the other sigma electron to EXTERNAL (the '-e-' ionization the book states removes an electron from the saturated framework), leaving C1 as the tert-butyl cation. No arc is misrepresented as drawn."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 86.109, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_tert_butyl_cation", "species_id": "tert_butyl_cation", "step_id": "step_sigma_dissociation", "observed_mz": 57.0699, "relative_intensity": 1.0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
